US05472966
Example 5 3,6-dihydro-N-methyl-4-(1-naphthalenyl)-1(2H)-pyridinepropanamine (IIB)
3,6-Dihydro-4-(1-naphthalenyl)-1(2H)-pyridinepropanol (Ex. 4: 1.20 g, 4.49 mmol) was dissolved in chloroform (50 mL) followed by the addition of triethylamine (0.94 mL, 6.73 mmol) and cooled to 0° C. Methanesulfonyl chloride (0.42 mL, 5.39 mmol) was added dropwise and the reaction was allowed to stir for thirty minutes while warming to room temperature. Solvent was then removed in vacuo yielding a crude solid (IV). This material was then dissolved in a solution of acetonitrile (60 mL) containing 40 wt. % aqueous methylamine (60 mL) and heated at reflux for three hours. The reaction was cooled to room temperature and concentrated in vacuo. The crude residue was diluted with chloroform (500 mL) and washed with aqueous 10% potassium carbonate (200 mL) followed by saturated aqueous sodium chloride (200 mL). The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated yielding 1.20 g (98%) of the title compound as a viscous golden oil: 1H NMR (CDCl3): δ 1.80 (m, 2H), 2.05 (br s, 1H), 2.43 (s, 3H), 2.57 (m, 2H), 2.70 (t, J=Hz, 2H), 2.79 (t, J=Hz, 2H), 3.20 (m, 2H), 5.73 (m, 1H), 7.25 (d, J=1.58, 1H), 7.39-7.48 (m, 3H), 7.75 (d, J=8.19, 1H), 7.83 (m, 1H), 7.96 (m, 1H)

reactant | 3,6-Dihydro-4-(1-naphthalenyl)-1(2H)-pyridinepropanol | 4.49 mmol, 1.20 g | C1(=CC=CC2=CC=CC=C12)C=1CCN(CC1)CCCO | C18H21NO
reactant | triethylamine | 6.73 mmol, 0.94 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 5.39 mmol, 0.42 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methylamine | 60 mL | CN | CH5N
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 3,6-dihydro-N-methyl-4-(1-naphthalenyl)-1(2H)-pyridinepropanamine | 1.20 g, 98% | CNCCCN1CCC(=CC1)C1=CC=CC2=CC=CC=C12 | C19H24N2
